US07179822B2
Synthesis of 4-(5-{3-[5-(4-Methoxy-phenyl)-oxazol-2-yl]-phenyl}-[1,3,4]oxadiazol-2-ylmethyl)-benzoic acid
A solution of 0.25 g (0.53 mmol) 4-(5-{3-[5-(4-Methoxy-phenyl)-oxazol-2-yl]-phenyl}-[1,3,4]oxadiazol-2-ylmethyl)-benzoic acid methyl ester from Example B2a in a 5:2:1 mixture of THF/methanol/water was added 1.0 mL (1.0 mmol) 1N NaOH. The mixture was stirred 14 hours at room temperature before concentrating on a rotary evaporator. Partitioned between ether and water. Separated layers and acidified aqueous layer with 6M HCl. Extracted aqueous layer with 1:1 Et2O/EtOAc (2×), combined organic layers and wash with saturated aqueous NaCl solution and dried (MgSO4). Obtained a solid from MeOH. Filter and dry in a vacuum oven overnight at room temperature to provide 0.068 g (28%) desired product.

reactant | 4-(5-{3-[5-(4-Methoxy-phenyl)-oxazol-2-yl]-phenyl}-[1,3,4]oxadiazol-2-ylmethyl)-benzoic acid methyl ester | 0.53 mmol, 0.25 g | COC(C1=CC=C(C=C1)CC=1OC(=NN1)C1=CC(=CC=C1)C=1OC(=CN1)C1=CC=C(C=C1)OC)=O | C27H21N3O5
reactant | NaOH | 1.0 mmol, 1N, 1.0 mL | [OH-].[Na+]
solvent | THF methanol water | C1CCOC1.CO.O
product | 4-(5-{3-[5-(4-Methoxy-phenyl)-oxazol-2-yl]-phenyl}-[1,3,4]oxadiazol-2-ylmethyl)-benzoic acid | 0.068 g, 28% | COC1=CC=C(C=C1)C1=CN=C(O1)C=1C=C(C=CC1)C1=NN=C(O1)CC1=CC=C(C(=O)O)C=C1 | C26H19N3O5
